US05622954
A reaction vessel containing 0.8 gram (0.0032 mole) of 2,4-diamino-5-iodo-6-methylpyrimidine, 0.5 mL (0.0042 mole) of 3-phenyl-1-propyne, 0.2 gram (catalyst) of bis(triphenylphosphine)palladium(II) chloride, 0.05 gram (catalyst) of copper iodide, and 8 mL of triethylamine is evacuated and refilled with dry nitrogen gas three times. The reaction mixture is then stirred at ambient temperature for about 60 hours. After this time, the reaction mixture is diluted with 100 mL of water. The mixture is then extracted with three 75 mL portions of ethyl acetate. The combined extracts are washed with three 75 mL portions of an aqueous 5% lithium chloride solution. The organic layer is dried with sodium sulfate and filtered. The filtrate is concentrated under reduced pressure to a residue. The residue is subjected to column chromatography on silica gel, using 5-15% methanol methylene chloride mixtures as eluants. The appropriate product-containing fractions are combined and concentrated under reduced pressure, yielding 0.3 gram of 2,4-diamino-6-methyl-5-(3-phenyl-1-propynyl)pyrimidine. The NMR spectrum is consistent with the proposed structure. Other fractions containing less pure product are combined and concentrated under reduced pressure to a residue. This residue is subjected to column chromatography on neutral alumina, using 2.5-10% methanol in methylene chloride mixtures as eluants. The product-containing fractions are combined and concentrated under reduced pressure, yielding an additional 0.2 gram of 2,4-diamino-6-methyl-5-(3-phenyl-1-propynyl)pyrimidine. The NMR spectrum is consistent with the proposed structure. The two solids are combined, yielding about 0.5 gram of 2,4-diamino-6-methyl-5-(3-phenyl-1-propynyl)pyrimidine, mp 145°-149° C.

reactant | 2,4-diamino-5-iodo-6-methylpyrimidine | 0.0032 mole, 0.8 gram | NC1=NC(=C(C(=N1)N)I)C | C5H7IN4
reactant | 3-phenyl-1-propyne | 0.0042 mole, 0.5 mL | C1(=CC=CC=C1)CC#C | C9H8
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.2 gram | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper iodide | 0.05 gram | [Cu](I)I
solvent | triethylamine | 8 mL | C(C)N(CC)CC | C6H15N
product | 2,4-diamino-6-methyl-5-(3-phenyl-1-propynyl)pyrimidine | 0.3 gram | NC1=NC(=C(C(=N1)N)C#CCC1=CC=CC=C1)C | C14H14N4
